US04022900
5-Amino-2-n-propyl-1,2,3,4-tetrahydroisoquinoline hydrobromide was reacted with 4-methoxybenzoyl chloride according to the procedure of Example 14 to produce 5-(4-methoxybenzamido)-2-n-propyl-1,2,3,4-tetrahydroisoquinoline; m.p. 162.5°-163.5° C. after purification with ethanol.

reactant | 5-Amino-2-n-propyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.NC1=C2CCN(CC2=CC=C1)CCC
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 5-(4-methoxybenzamido)-2-n-propyl-1,2,3,4-tetrahydroisoquinoline | COC1=CC=C(C(=O)NC2=C3CCN(CC3=CC=C2)CCC)C=C1 | C20H24N2O2
